US06737417B2
Benzylidenebis(tricyclohexyl-phosphine)-dichlororuthenium (98 mg, 0.11 mmol) was added to a solution of 3-methoxy-7α-(2-propenyl)estra-1,3,5(10)-trien-17β-ol (723 mg, 2.21 mmol) and ethyl 2-(4,4,5,5,5-pentafluoropentyl)-9-decenoate (1.59 g, 4.43 mmol) in dichloromethane (20 ml), followed by heating under reflux for 20 hours under argon atmosphere. After cooling, the reaction mixture was concentrated under reduced pressure and the resulting residue was purified by silica gel flash chromatography (eluent: hexane/ethyl acetate=4/1) to give ethyl 11-[17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-penta-fluoropentyl)-9-undecenoate (973 mg, Yield 67%).

reactant | 3-methoxy-7α-(2-propenyl)estra-1,3,5(10)-trien-17β-ol | 2.21 mmol, 723 mg | COC1=CC=2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)CC=C | C22H30O2
reactant | ethyl 2-(4,4,5,5,5-pentafluoropentyl)-9-decenoate | 4.43 mmol, 1.59 g | FC(CCCC(C(=O)OCC)CCCCCCC=C)(C(F)(F)F)F | C17H27F5O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | Benzylidenebis(tricyclohexyl-phosphine) dichlororuthenium | 0.11 mmol, 98 mg | C(C1=CC=CC=C1)(P(C1CCCCC1)(C1CCCCC1)C1CCCCC1)P(C1CCCCC1)(C1CCCCC1)C1CCCCC1.Cl[Ru]Cl
product | ethyl 11-[17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-penta-fluoropentyl)-9-undecenoate | 973 mg, Yield 67% | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC)CC=CCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C37H53F5O4
